Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:13].[H:1][C:2]#[C:3][C:10]([H:11])[H:12],3.42384921636
[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:5].[O:1][O:2][C:3]([H:4])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.46365439667
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10],5.33856868304
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[O:11][H:12].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.99937011375
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],3.72390639326
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[O:7]=[C:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],-0.32128284244000005
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.4652327215799998
[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7]=[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],0.669718460688
[C:9]([H:10])(=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.23019061464
[H:12].[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.66233673335
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:2]([H:3])=[O:5].[O:1]([C:4][C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[H:6],3.66394929416
[C:2]#[C:3][C:4]([H:5])([H:6])[C:8]#[C:9][H:10].[H:1][C:7]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.75637290087
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[O:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6][O:7][C:8]1([H:9])[H:10],1.81864778617
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8][C:9]([H:10])[H:11]>>[C:6]#[C:7][C:8][C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5],3.6061602081
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.234118051359999
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4],1.91606712372
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8][H:9],6.81732753453
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:7][C:8][C:9]([H:10])[H:11].[H:6],3.26920928625
[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9][H:10]>>[H:8].[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]#[C:9][H:10],1.7015123871899998
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.38149085468
[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.01828121611
[H:13].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.04229729088
[H:12].[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.55518326693
[H:1][O:2][O:3][C@@:4]1([H:5])[C:6]([H:7])[C:8][C:9]1([H:10])[H:11]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8])[C:9]([H:10])[H:11],2.13645285095
[C:1]#[C:2][C:3]#[C:4][C:6]#[C:7].[H:5]>>[C:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7],-2.65843571804
[C:3](=[O:4])[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.2455531689
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5],3.62395777389
[C:1]#[C:2][O:3][H:4]>>[C:1]#[C:2].[O:3][H:4],6.811960890469999
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:7][C:8]([H:9])=[C:10][H:11].[H:6],4.12861311787
